US07902367B2
Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxycarbonylamino]piperidin-1-yl]benzoate
1-[3-(Methoxycarbonyl)phenyl]nipecotic acid (105 mg, 0.400 mmol) was suspended in benzene (8 mL). To this suspension, diphenylphosphoryl azide (0.0948 mL, 0.440 mmol) and triethylamine (0.0615 mL, 0.440 mmol) were added and the mixture was stirred for 2 hours while being refluxed. Subsequently, 2-(4-chlorophenyl)-4-methylthiazol-5-yl methanol (105 mg, 0.440 mmol) and triethylamine (0.0615 mL, 0.440 mmol) were added and the mixture was further stirred for 6 hours while refluxed. Water was then added and the mixture was extracted with ethyl acetate. The extract washed sequentially with a saturated aqueous sodium bicarbonate solution and brine. This was followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=10:1->2:1) gave 103 mg (52%) of the desired compound as a colorless powder.

reactant | 1-[3-(Methoxycarbonyl)phenyl]nipecotic acid | 0.400 mmol, 105 mg | COC(=O)C=1C=C(C=CC1)N1CC(C(=O)O)CCC1 | C14H17NO4
reactant | diphenylphosphoryl azide | 0.440 mmol, 0.0948 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.440 mmol, 0.0615 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chlorophenyl)-4-methylthiazol-5-yl methanol | 0.440 mmol, 105 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CO | C11H10ClNOS
reactant | triethylamine | 0.440 mmol, 0.0615 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 8 mL | C1=CC=CC=C1 | C6H6
solvent | Water | O | H2O
product | Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxycarbonylamino]piperidin-1-yl]benzoate | 103 mg, 52% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)COC(=O)NC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C25H26ClN3O4S
